data/rdb19/train.csv
rxn,smiles,ea
1119,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:14]([H:20])([H:21])[H:22])([O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],24.497232274501584
1355,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10](=[C:11]([H:12])[H:13])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:14])[H:6],34.64722201452241
4834,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19][c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[H:27])[H:11])([H:8])([H:9])[H:10],25.653751842444763
1580,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]([H:29])([H:30])[H:31])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],54.01969303970691
2884,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([H:24])[H:25])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[H:31],85.74198946874822
155,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19][c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:33])([H:6])([H:7])[H:8],34.47985874151345
440,[C:1]([O:2][O:3][C:10](=[O:11])[O:12][H:18])([H:4])([H:5])[H:6].[C:7]([C:8]=[C:9]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][C:10]([C:8]([C:7]([H:13])([H:14])[H:15])=[C:9]([H:16])[H:17])([O:11])[O:12][H:18])([H:4])([H:5])[H:6],22.43473622342572
2724,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:22]([C:21]([C:20]([H:26])([H:27])[H:28])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30],29.7869577415986
3324,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:23])([H:5])([H:6])[H:7],39.05260582896881
174,[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:14]1([C:13](=[C:12]([H:20])[H:21])[H:22])[C:15]([H:23])[C:16]([H:24])=[C:17]([H:25])[C:18]([H:26])=[C:19]1[H:27],48.12372167099966
2195,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([O:22][O:23])([H:24])([H:25])[H:26]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][O:23][O:22][C:21]([H:24])([H:25])[H:26],24.46732767863432
1209,[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([O:15][C:16](=[C:17][H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],32.706728865916375
